Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin / Ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
back pain  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with cerebral palsy, chronic back pain now p/w acute low 
back pain after being discharged from ___ on ___. She 
initially presented on ___ when she was in he USOH until___ 
when she was at work at ___. She was sliding a desk along the 
floor and developed a "jolt" off low back pain with radiation 
down both legs. This progressed over the course of the day and 
she ultimately was brought to ___ where she had MRI of L-spine 
showing degenerative changes involving left L5 nerve root. She 
was treated for pain control with ibuprofen and IV dilaudid and 
by the following morning she was improved to the point that she 
was able to ambulate. She was discharged home with PCP and she 
was given the number for the chronic pain service. Her roommate 
picked her up and she went home and was able to ambulate into 
the home. However the pain started to worsen. This was the same 
in character to previously, sharp severe low back pain with 
radiation down legs and numbness/tingling down both legs. She 
states that she was at the computer checking for ___ 
assignments and then stood up and collapsed to floor in pain. 
    Her rooommate brought her into ___ ED. In the ED, she was 
treated with dilaudid, morphine, and valium for pain. She states 
that the valium was very helpful in relieving the muscle spasms.
 
Past Medical History:
Cerebral palsy  
Recurrent kidney infections  
Disc rupture ___  
? Ovarian cysts - reports experiencing cysts sporadically  
bilateral hip dislocation repaired surgically as an infant
 
Social History:
___
Family History:
Sister had ovarian cyst and ? cervical cancer
 
Physical Exam:
VS: Temp: 99.5  BP: 130/80  HR: 90  RR: 16  O2sat: 95 RA 
.  
Gen: uncomfortable, in NAD.  
HEENT: PERRL, EOMI. No scleral icterus. No conjunctival 
injection. Mucous membranes moist. No oral ulcers.  
Neck: Supple, no LAD, no JVP elevation.  
Lungs: CTA bilaterally, no wheezes, rales, rhonchi. Normal 
respiratory effort.  
CV: RRR, no murmurs, rubs, gallops.  
Abdomen: soft, NT, ND, NABS, no HSM.  
Extremities: warm and well perfused, no cyanosis, clubbing, 
edema.  
Neurological: alert and oriented X 3, CN II-XII intact. Muscle 
strength is full UE bilaterally, ___ at least ___ 
bilaterally. Sensation to light touch is intact throughout. 
Reflexes are hyperactive at knees bilaterally and 3+ bicecps 
bilaterally. Bilateral ___ spasticity.  
Skin: No rashes or ulcers.  
Psychiatric: Appropriate.  
 
Pertinent Results:
___ 09:45PM   GLUCOSE-136* UREA N-8 CREAT-0.7 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-27 ANION GAP-12
___ 09:45PM   WBC-9.3 RBC-4.24 HGB-13.2 HCT-36.3 MCV-86 
MCH-31.2 MCHC-36.5* RDW-12.7
___ 09:45PM   NEUTS-74.7* LYMPHS-16.2* MONOS-2.9 EOS-5.8* 
BASOS-0.4
___ 09:45PM   PLT COUNT-___ with cerebral palsy, h/o degenerative disk disease, very 
recent admission for L4-S1 disc herniation representing with 
lower back pain.  
.  
# Herniated disc and annular ligament tear back pain:  
The patient was seen by the pain service (the second time here 
case has been discussed with them in the past 3 days) who did 
not recommend any acute injections and recommended the addition 
of a clonidine patch and lowering the dose of gabapentin from 
600 mg po tid to ___ mg po tid along with physical therapy.  The 
patient will ___ with the pain service in a week and is to ___ 
with her PCP also in the next week.
Of note, the patient had very labile moods throughout both of 
her admissions but refused social work consult.  There is a 
strong pyschiatric component to her admissions however she 
refused our offer of services and evaluation to help her with 
this.
She was evaluated by ___ initially and noted to not be 
cooperating fully.  However, on direct observation by physical 
therapy later on, she was noted to be ambulating comfortably and 
independently after taking a shower.
Unless there is a dramatic change in her physical exam findings 
(ie. concern of new spinal cord compression etc.), the patient 
will not benefit from future hospitalizations for this issue.  
.  
# anemia:  
hct 36.3, at baseline 37. Labs c/w iron depletion though not 
quite iron deficiciency, There is b12 deficiency.
-Outpt PCP ___.
.
# B12 deficiency
.  
# eosinophilia:
reviewing OMR, patient has eosinophilia over the past year. 
- This should be followed up with PCP
.

 
Medications on Admission:
OCPs 
 
Discharge Medications:
1. Clonidine 0.1 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QTHUR (every ___.
Disp:*3 Patch Weekly(s)* Refills:*1*
2. Neurontin 300 mg Capsule Sig: One (1) Capsule PO three times 
a day.
Disp:*90 Capsule(s)* Refills:*1*
3. Cyanocobalamin 1,000 mcg Tablet Sig: One (1) Tablet PO once a 
day.  
4. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO every six (6) 
hours as needed for pain.  
5. Motrin 600 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
6. Oxycodone 5 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Lumbar Disc Herniation
Cerebral Palsy
Chronic Back Pain
Anxiety
 
Discharge Condition:
Vital Signs Stable
 
Discharge Instructions:
Return to the ED if having high fevers, chills, confusion.

You have a recent herniated lumbar discs discovered on your very 
recent prior admission. Your case has been discussed on 2 
___ occasions with the pain service and you have been 
evaluated by the physical therapy service twice. On both 
hospital admissions you were noted to be walking comfortably and 
deemed safe by ___ for discharge home. You will have outpatient 
physical therapy.

You do not require any further inpatient admissions for 
management of your herniated disc pain.
 
Followup Instructions:
___